US06919355B2
d) 6-(4-Benzylpiperidin-1-carbonyl)-3,5-dihydro-1H-imidazo[4,5-f]indole-2-one
The title compound is prepared from 2-oxo-1,2,3,5-tetrahydro-imidazo[4,5-f]indole-6-carboxylic acid and 4-benzylpiperidine according to the method described in Example 1/c. Mp.: >270° C. (acetonitrile).

reactant | 2-oxo-1,2,3,5-tetrahydro-imidazo[4,5-f]indole-6-carboxylic acid | O=C1NC=2C(=CC=3C=C(NC3C2)C(=O)O)N1 | C10H7N3O3
reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-(4-Benzylpiperidin-1-carbonyl)-3,5-dihydro-1H-imidazo[4,5-f]indole-2-one | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C=1NC=2C=C3C(=CC2C1)NC(N3)=O | C22H22N4O2
